US08980911B2
A solution of 1H-pyrrolo[3,2-c]pyridine (200 mg, 1.69 mmol) in dichloromethane (10 ml) was treated with N-chlorosuccinimide (339 mg, 2.5 mmol) and stirred at room temperature for 5 hours. The reaction mixture was diluted with dichloromethane and washed with aqueous sodium hydrogen carbonate solution, brine, dried over anhydrous sodium sulfate and concentrated. Purification from silica gel column chromatography using methanol and dichloromethane gradient afforded 3-chloro-1H-pyrrolo[3,2-c]pyridine (98 mg, 40%).

reactant | 1H-pyrrolo[3,2-c]pyridine | 1.69 mmol, 200 mg | N1C=CC=2C=NC=CC21 | C7H6N2
reactant | N-chlorosuccinimide | 2.5 mmol, 339 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-chloro-1H-pyrrolo[3,2-c]pyridine | 98 mg, 40% | ClC1=CNC2=C1C=NC=C2 | C7H5ClN2
